US07678902B2
2,2′-dithiosalicylic acid (45.7 g, 0.15 mol) and sodium hydroxide (24.5 g, 0.61 mol) were put in a 0.5 L reactor having an agitator and a reflux device, and dissolved in 160 ml of water. Zinc (9.8 g) was added thereto, and a reaction was conducted at 40° C. for 1 hour. 1-chloro-2-nitrobenzene (48.2 g, 0.31 mol) was added thereto, and the resulting mixture was refluxed for 6 hours and extracted with toluene (200 ml×2) to remove unreacted 1-chloro-2-nitrobenzene so as to produce a 2-(2-nitrophenylthio)benzoic acid aqueous solution.

reactant | 2,2′-dithiosalicylic acid | 0.15 mol, 45.7 g | C1=CC=C(C(=C1)C(=O)O)SSC2=CC=CC=C2C(=O)O | C14H10O4S2
reactant | sodium hydroxide | 0.61 mol, 24.5 g | [OH-].[Na+]
reactant | 1-chloro-2-nitrobenzene | 0.31 mol, 48.2 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | water | 160 ml | O | H2O
catalyst | Zinc | 9.8 g | [Zn] | Zn
product | 2-(2-nitrophenylthio)benzoic acid | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H9NO4S
